US05371101
In the same manner as in Reference Example 5, starting from 345 mg of (1S)-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 410 mg of 2-[4-(2,2,3,3,4,4,5,5-octafluoropentoxy)phenyl]-3(2H,4H)-1,2,4-triazolone, 371 mg of 4-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-2-[4-(2,2,3,3,4,4,5,5-octafluoropentoxy)phenyl]-3(2H,4H)-1,2,4-triazolone was obtained as colorless prisms.

reactant | (1S)-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 345 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 2-[4-(2,2,3,3,4,4,5,5-octafluoropentoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 410 mg | FC(COC1=CC=C(C=C1)N1N=CNC1=O)(C(C(C(F)F)(F)F)(F)F)F | C13H9F8N3O2
product | 4-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-2-[4-(2,2,3,3,4,4,5,5-octafluoropentoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 371 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(N=C2)C2=CC=C(C=C2)OCC(C(C(C(F)F)(F)F)(F)F)(F)F)=O)CO1 | C23H17F10N3O3
